### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Multilinear): composition of multilinear maps

### PR DESCRIPTION
**Pull request by PrParadoxy**
The composition of a multilinear map with a family of multilinear maps
is a multilinear map indexed by a dependent sum.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 1]
```diff
@@ -403,6 +403,34 @@ theorem comp_linearEquiv_eq_zero_iff (g : MultilinearMap R M₁' M₂) (f : ∀
...
+@[simps]
+def compMultilinearMap [DecidableEq ι] [∀ i : ι, DecidableEq (β i)]
+    (g : MultilinearMap R M₁ M₂) (f : (i : ι) → MultilinearMap R (N i) (M₁ i)) :
+    MultilinearMap R (fun j : Σ i, β i ↦ N j.fst j.snd) M₂ where
+  toFun m := g fun i ↦ f i (Sigma.curry m i)
+  map_update_add' := by
+    intro hDecEqSigma m j
+    rw [Subsingleton.elim hDecEqSigma Sigma.instDecidableEqSigma]
+    simp_rw [funext (fun i ↦ Sigma.apply_curry_update (fun i' ↦ f i') m j _ i), Sigma.curry_update]
+    simp
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: Can these three lines be turned into one simp call somehow?

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 2]
```diff
@@ -403,6 +403,34 @@ theorem comp_linearEquiv_eq_zero_iff (g : MultilinearMap R M₁' M₂) (f : ∀
...
+  map_update_smul' := by
+    intro hDecEqSigma m j
+    rw [Subsingleton.elim hDecEqSigma Sigma.instDecidableEqSigma]
+    simp_rw [funext (fun i ↦ Sigma.apply_curry_update (fun i' ↦ f i') m j _ i), Sigma.curry_update]
+    simp
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: (same question)

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 1 above)
Comment (goliath-klein) [reply Mathlib/LinearAlgebra/Multilinear/Basic.lean]: We don't see how, sorry.

One *can* smoosh everything together into one big `simp_rw`. 

One can also combine the `Subsingleton.elim` and the `Sigma_apply_curry` calls into one `simp`, and then close the goal with a second `simp [Sigma.curry_update]`.

One could also re-define `Sigma.apply_curry_update` to leave the argument `i` open. Then the middle line would reduce to `simp [Sigma.apply_curry_update]`. However, the price to pay would be an API inconsistency between the signatures of `Sigma.apply_curry_update` and `Function.apply_update`.

Would you think one of these options is preferable to what we have?

File: Mathlib/Data/Sigma/Basic.lean [hunk 3]
```diff
@@ -177,6 +177,18 @@ theorem Sigma.curry_update {γ : ∀ a, β a → Type*} [DecidableEq α] [∀ a,
     · exact ha.symm
     · exact ha.symm
 
+theorem Sigma.apply_curry_update {γ : (a : α) → β a → Type*} {δ : α → Type*}
```
Comment (Vierkantor) [inline Mathlib/Data/Sigma/Basic.lean]: Sorry, not sure what this brings over `Sigma.curry_update` plus `Function.apply_update` separately. (Especially because it seems that the combination of the two works better than this lemma, in the proof below.)

I would prefer removing this lemma.

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean (hunk 2 above)
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: A few changes and we can do it in a single `intro; classical; simp`:

* `DecidableEq` is not needed to define `toFun`, so we should add this assumption (with `classical`) only for the proofs.
* We only need to introduce `hDecEqSigma`, the rest is handled by `simp`. Might as well put the hypothesis before the colon (but I would also accept `intro` here).
* `simp only` can do all the rewriting if we hint it what to exactly rewrite. In particular, breaking `[Sigma.apply_curry_update .., Sigma.curry_update]` into `[Sigma.curry_update`, Function.apply_update ..]` makes it easier for `simp` to do the right thing.
* Since we now use `simp only`, it is easy to merge it with the initial `rw` and final `simp` into one big `simp`.

```suggestion
def compMultilinearMap (g : MultilinearMap R M₁ M₂) (f : (i : ι) → MultilinearMap R (N i) (M₁ i)) :
    MultilinearMap R (fun j : Σ i, β i ↦ N j.fst j.snd) M₂ where
  toFun m := g fun i ↦ f i (Sigma.curry m i)
  map_update_add' {hDecEqSigma} := by
    classical
    simp [Subsingleton.elim hDecEqSigma Sigma.instDecidableEqSigma,
      Sigma.curry_update, Function.apply_update (fun i ↦ f i)]
  map_update_smul' {hDecEqSigma} := by
    classical
    simp [Subsingleton.elim hDecEqSigma Sigma.instDecidableEqSigma,
      Sigma.curry_update, Function.apply_update (fun i ↦ f i)]
```

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors r+
